US08791132B2
Methanesulfonic acid-1-(6-carbamoyl-pyridin-3-yl)-2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-ethyl ester (300 mg, 0.678 mmol) was dissolved in 5 mL DMF, and sodium azide (88 mg, 1.357 mmol) was added, and the mixture heated at 100° C. for 1 h. The reaction mixture was monitored by LCMS. After completion of reaction, the reaction mixture was cooled to RT and diluted with water (15 mL) and extracted with EtOAc (3×30 mL). The combined organic layer was washed with water (4×40 mL), dried over anhydrous sodium sulfate and concentrated to obtain the crude product that was purified by reverse phase chromatography to yield 5-[1-azido-2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-ethyl]-pyridine-2-carboxylic acid amide (135 mg). 1H NMR (CD3OD, TFA salt) δ (ppm): 8.6 (dd, 1H), 8.1 (t, 1H), 7.9 (t, 1H), 7.33 (dd, 1H), 7.26 (s, 1H), 7.06 (t, 1H), 5.3 (t, 1H), 4.7 (dd, 1H), 4.42 (dd, 1H), 4.4 (dd, 2H), 4.3 (m, 1H), 3.8 (m, 1H),3.6 (m, 1H), 3.34 (dd, 1H), 3.1 (d, 3H), 2.4 (s, 3H). Separation by chiral HPLC provides enantiomers V-22a-b.

reactant | Methanesulfonic acid-1-(6-carbamoyl-pyridin-3-yl)-2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-ethyl ester | 0.678 mmol, 300 mg | C(N)(=O)C1=CC=C(C=N1)C(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)OS(=O)(=O)C | C22H26N4O4S
reactant | sodium azide | 1.357 mmol, 88 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 15 mL | O | H2O
product | 5-[1-azido-2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-ethyl]-pyridine-2-carboxylic acid amide | 135 mg | N(=[N+]=[N-])C(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)C=2C=CC(=NC2)C(=O)N | C21H23N7O
